### PR TITLE
[Merged by Bors] - feat: the `ConvexCone` generated by a set 

### PR DESCRIPTION
**Pull request by YaelDillies**
Define `ConvexCone.copy` and `ConvexCone.hull` and use them to golf the `CompleteLattice` instance.

From Toric

---

- [x] depends on: #25291 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Geometry/Convex/Cone/Basic.lean [hunk 1]
```diff
@@ -390,6 +401,38 @@ end Module
...
+              smul_mem' := by
+                intro r₁ hr₁ y ⟨r₂, hr₂, hy⟩
+                refine ⟨r₁ * r₂, mul_pos hr₁ hr₂, ?_⟩
+                rw [mul_smul]
+                exact smul_mem_smul_set hy
+              add_mem' := by
+                rintro y₁ ⟨r₁, hr₁, hy₁⟩ y₂ ⟨r₂, hr₂, hy₂⟩
+                refine ⟨r₁ + r₂, add_pos hr₁ hr₂, ?_⟩
+                rw [hs.add_smul hr₁.le hr₂.le]
+                exact add_mem_add hy₁ hy₂
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/Cone/Basic.lean:421]: Is it useful to make this cone a separate definition somewhere? Relatedly, do we want to make the ConvexCone generated by a point, then you can state the RHS as a literal union (and maybe simplify this proof)

Comment (YaelDillies) [reply Mathlib/Geometry/Convex/Cone/Basic.lean:421]: I previously thought about doing this, but I decided against it because, whenever `{y | ∃ r : 𝕜, 0 < r ∧ y ∈ r • s}` is a cone, it's equal to `hull 𝕜 s`. Therefore you might as well use `{y | ∃ r : 𝕜, 0 < r ∧ y ∈ r • s}`. About the union, maybe one could use `Module.Ray`? I'm not sure, what do you think?

Comment (b-mehta) [reply Mathlib/Geometry/Convex/Cone/Basic.lean:421]: For the first: that makes sense, I think it'd be nice to have the lemma `coe_hull_of_convex` expressing the thing you said though (which should be `ext; rw [mem_hull_of_convex hs]` or something). 
For the second: it feels like we could (re)bundle Module.Ray into a ConvexCone, then prove things like that the conical hull is equal to the sup of all the rays? But that can be a different PR.

Comment (YaelDillies) [reply Mathlib/Geometry/Convex/Cone/Basic.lean:421]: Added `coe_hull_of_convex`. Unfortunately for this application, `SameRay 0 x` was changed by @urkud to be true for all `x`.

File: Mathlib/Geometry/Convex/Cone/Basic.lean [hunk 2]
```diff
@@ -119,6 +118,30 @@ theorem coe_iInf {ι : Sort*} (f : ι → ConvexCone R M) : ↑(iInf f) = ⋂ i,
 lemma mem_iInf {ι : Sort*} {f : ι → ConvexCone R M} : x ∈ iInf f ↔ ∀ i, x ∈ f i :=
   mem_iInter₂.trans <| by simp
 
+instance : CompleteSemilatticeInf (ConvexCone R M) where
+  sInf_le C C hC := by rw [← SetLike.coe_subset_coe, coe_sInf]; exact biInter_subset_of_mem hC
+  le_sInf C C hC := by rw [← SetLike.coe_subset_coe, coe_sInf]; exact subset_iInter₂ hC
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/Cone/Basic.lean:123]: I think the `C C` here is confusing, if you want to name `C` (which I personally wouldn't, but that's up to you), then let's just do it once!

File: Mathlib/Geometry/Convex/Cone/Basic.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Geometry/Convex/Cone/Basic.lean:421]: I think `SameRay` doesn't need to be used here, we can use `Module.Ray` and the associated setoid, which excludes `0`. But let's discuss this elsewhere!

**Review by b-mehta — COMMENTED** [review]
Thanks!

I still think we also should have a constructor for the convex cone generated by a single (non-zero) point, and relate that definition to this one.
I also don't like the way the `mem_hull_of_convex` proof looks visually, but I can't see further ways to improve it.
So,

bors merge

File: Mathlib/Geometry/Convex/Cone/Basic.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/Cone/Basic.lean:123]: Whoops, it used to be `C D`
